US07632838B2
3,5-dichloro-4-[4-(2-naphthylsulfonyl)piperidin-1-yl]pyridine
Using the procedure from Example 7A, Step 7E, 4-(2-naphthylsulfonyl)piperidine (130 mg, 0.51 mmol) was reacted with 3,4,5-trichloropyridine (182 mg, 1.0 mmol) to afford the title compound (26 mg), a white solid, in 12% yield.

reactant | 4-(2-naphthylsulfonyl)piperidine | 0.51 mmol, 130 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)C1CCNCC1 | C15H17NO2S
reactant | 3,4,5-trichloropyridine | 1.0 mmol, 182 mg | ClC=1C=NC=C(C1Cl)Cl | C5H2Cl3N
product | 3,5-dichloro-4-[4-(2-naphthylsulfonyl)piperidin-1-yl]pyridine | 26 mg, 12% yield | ClC=1C=NC=C(C1N1CCC(CC1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)Cl | C20H18Cl2N2O2S
